US07351743B1
Preparation of N,N′-bis(4-sec-Butylphenyl)-N-methyl guanidine·HCl
Aluminum chloride (0.42 g, 3.1 mmol) was added to a stirred solution of N-4-sec-butylphenyl-N-methyl cyanamide (0.534 g, 2.84 mmol) in chlorobenzene (15 mL) at 145° C. After 10 minutes 4-sec-butylphenyl amine hydrochloride (0.474 g, 2.56 mmol, prepared from 4-sec-butyl aniline and 1.0 M HCl-ether) was added and continued reflux. After 2 hours, the reaction mixture was evaporated and the product was purified by flash chromatography to afford the title compound (0.45 g, 65%) as a syrup. TLC: Rf=0.22 (CH2Cl2:CH3OH; 10:1); 1H NMR (CD3OD): δ 7.27 (d, 4H, J=8.18 Hz, ArH), 7.20 (d, 4H, J=8.36 Hz, ArH), 3.46 (s, 3H, —NCH3), 2.69-2.58 (m, 2H, 2×-CH), 1.68-1.57 (m, 4H, 2×-CH2), 1.25 (d, 6H, 2×-CH3), 0.85 (t, 6H, 2×-CH3); HRMS: 337.2484 (337.2528 Calcd. for C22H31N3); HPLC: (CH3CN:H2O; 50:50 with 0.1% TFA): 98% pure.

reactant | Aluminum chloride | 3.1 mmol, 0.42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-4-sec-butylphenyl-N-methyl cyanamide | 2.84 mmol, 0.534 g | C(C)(CC)C1=CC=C(C=C1)N(C#N)C | C12H16N2
reactant | 4-sec-butylphenyl amine hydrochloride | 2.56 mmol, 1.0 M, 0.474 g | Cl.C(C)(CC)C1=CC=C(C=C1)N
solvent | chlorobenzene | 15 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N,N′-bis(4-sec-Butylphenyl)-N-methyl guanidine·HCl | 0.45 g, 65% | C(C)(CC)C1=CC=C(C=C1)N(C(=N)NC1=CC=C(C=C1)C(C)CC)C.Cl | InChI=1S/C22H31N3.ClH/c1-6-16(3)18-8-12-20(13-9-18)24-22(23)25(5)21-14-10-19(11-15-21)17(4)7-2;/h8-17H,6-7H2,1-5H3,(H2,23,24);1H
